US05958942
ii) Synthesis of 1,2-dihydro-3-methyl-1-[6-(trifluoromethanesulfonamido)hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride
To a suspension of 623 mg (1.54 mmol) of 1,2-dihydro-3-methyl-1-[6-(trifluoromethanesulfonamido) hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 10 ml of methanol was added 0.16 ml of conc. HCl and, then, the solvent was distilled off. To the residue were added acetone and ether. The resulting solid was washed with ether, dried to give 570 mg of the desired compound (83.9%, pale yellow solid).

reactant | 1,2-dihydro-3-methyl-1-[6-(trifluoromethanesulfonamido) hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 1.54 mmol, 623 mg | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCCNS(=O)(=O)C(F)(F)F)=O | C16H19F3N4O3S
reactant | HCl | 0.16 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-1-[6-(trifluoromethanesulfonamido)hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride | 570 mg, 83.9% | Cl.CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCCNS(=O)(=O)C(F)(F)F)=O | InChI=1S/C16H19F3N4O3S.ClH/c1-11-14-15(24)22(13-8-6-7-12(21-11)23(13)14)10-5-3-2-4-9-20-27(25,26)16(17,18)19;/h6-8,20H,2-5,9-10H2,1H3;1H
